US05002953
2-[N-Methyl-N-(2-benzothiazolyl)amino]ethanol
A mixture of 2-chlorobenzothiazole (8.5 g) and 2-methylaminoethanol (20 ml) was heated at 120° C. under pressure in a sealed, glass lined, stainless steel reaction vessel for 18 hours. After cooling, the oil was added to water (100 ml), extracted with dichloromethane (2×100 ml), the organic extracts were dried (MgSO4), filtered and evaporated to dryness Chromatography of the residual oil on silica-gel in 21/2% methanol in dichloromethane gave the title compound which was used in Preparation 1 without further purification. 1H NMR δ (CDCl3) 3.15 (3H, s); 3.4-4.0 (4H, m); 4.7 (1H, broad s, exchanges with D2O; 6.8-7.6 (4H, complex).

reactant | 2-chlorobenzothiazole | 8.5 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | 2-methylaminoethanol | 20 ml | CNCCO | C3H9NO
solvent | water | 100 ml | O | H2O
product | 2-[N-Methyl-N-(2-benzothiazolyl)amino]ethanol | CN(C=1SC2=C(N1)C=CC=C2)CCO | C10H12N2OS
